US09303191B2
<<Tungsten/TEOS Polishing Rate Ratio>>
A ratio in which the polishing rate for tungsten was divided by the polishing rate for TEOS was calculated.

reactant | tungsten | [W] | W
reactant | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
product | Tungsten TEOS | [W].CCO[Si](OCC)(OCC)OCC | InChI=1S/C8H20O4Si.W/c1-5-9-13(10-6-2,11-7-3)12-8-4;/h5-8H2,1-4H3;
